Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
right thoracentesis
EGD

 
History of Present Illness:
___ s/p gastric bypass, bulimia with alcohol dependence and 
active sucidial ideation hospitalized at ___ on ___ for 
evaluation of abdominal pain.  She initially presented to a 
local hospital after cutting her wrists and binge drinking 
whiskey, but she was not involuntarily hospitalized and 
discharged with plans for a partial psych hospitalization.  She 
then was taken by her father because of ongoing abdominal pain 
that is in the RUQ, moderate to severe in intensity and 
radiating to mid-line, accompanied by nausea/vomiting and 
decreased oral intake to another OSH.  There imaging was done 
and because of possibility of acute cholangitis she was 
transferred to ___.  In the ED, the bariatric surgery service 
met her.  

She was sober from ___ and then drank half a liter of 
whiskey because of despair and depression and suicidal 
ideations.  She describes herself as an alcoholic.  

13pt ROS also notable for presence of chills/mailaise/poor oral 
intake/fatigue/mild icterus.   She denies abdominal distension, 
confusion, hematemesis, diarrhea or melena.  
 
Past Medical History:
s/p roux-en-y gastric bypass ___ at ___
marginal ulcerations
PUD
suicidal ideations/past attempts
alcohol dependence/abuse
injured in bicycle accident in ___ requiring ex-lap
 
Social History:
___
Family History:
multiple relatives w alcoholism and alcoholic cirrhosis per 
interview w surgeon
 
Physical Exam:
98.1 118/78 77
calm and cooperative and attentive
no jaundice
facial features symmetric, poor dentition
no visible spider angiomas to skin, minimal icterus of sclera
no asterexis
dec BS at R lung base otherwise clear
regular s1 and s2
+hepatomegaly, tenderness present in RUQ w mild guarding
no clinically apparent ascites
no peripheral edema
some bruises along shins
superficial linear cuts on R anterior fore-arm
moves all extremities equally
stable gait
fluent speech

Discharge Exam: 
Vitals: 99.2  109/59  106  18  99%RA
Gen: NAD, sleeping comfortably in bed, rouses to voice, speaking
full sentences without accessory muscle use, alert, oriented
Eyes: EOMI, sclerae anicteric  
ENT: MMM, OP clear, poor dentition
Cardiovasc: RRR, S1, S2, no MRG, full pulses 
Resp: normal effort, full breath sounds L lung, R side lower 
half
diminished
GI: +hepatomegaly, RUQ and epigatric TTP-area of tenderness is
slightly smaller than prior exams but stable, soft, nondistended
MSK: no edema, cyanosis, clubbing
Skin: No jaundice, scattered hematomas from prior blood draws,
superficial linear cuts on R arm healing
Neuro: AAOx3. No facial droop. Nonfocal. Speech fluent
Psych: Full range of affect
GU: no foley, otherwise deferred

 
Pertinent Results:
___ 10:40PM BLOOD WBC-4.5 RBC-2.84* Hgb-7.3* Hct-23.1* 
MCV-81* MCH-25.7* MCHC-31.6* RDW-22.6* RDWSD-61.3* Plt Ct-60*
___ 07:45PM BLOOD WBC-4.0 RBC-2.99* Hgb-7.7* Hct-25.0* 
MCV-84 MCH-25.8* MCHC-30.8* RDW-23.4* RDWSD-66.1* Plt Ct-60*
___ 10:40PM BLOOD Glucose-79 UreaN-7 Creat-0.6 Na-138 K-3.3 
Cl-106 HCO3-24 AnGap-11
___ 07:45PM BLOOD Glucose-60* UreaN-7 Creat-0.6 Na-140 
K-3.1* Cl-105 HCO3-23 AnGap-15
___ 10:40PM BLOOD ALT-25 AST-95* AlkPhos-116* TotBili-3.2*
___ 10:40PM BLOOD Albumin-2.4*
___ 05:45AM BLOOD Lactate-4.2*

CXR: IMPRESSION: Moderate to moderately large right pleural 
effusion, with underlying collapse and/or consolidation.

RUQ US: 
IMPRESSION:
1. Echogenic nodular liver suggesting underlying cirrhosis with 
mild
splenomegaly, moderate ascites, and a moderate right pleural 
effusions .
2. No biliary dilatation.  No cholecystitis.  No focal liver 
lesion.

CT abd/pelvis with contrast: 
IMPRESSION:
1. No evidence of bowel obstruction.  Expected appearance status 
post
Roux-en-Y gastric bypass with unremarkable appearance of the 
anastomoses.
2. Macro lobulated liver consistent with cirrhosis/nodular 
regenerative
hyperplasia with sequela of portal hypertension including 
ascites and
splenomegaly.
3. Large right pleural effusion.

DIFFICULT CROSSMATCH: 
DIAGNOSIS, ASSESSMENT AND RECOMMENDATIONS: ___ has a 
new
diagnosis of an Anti-E antibody. The E-antigen is a member of 
the Rh
blood group system. Anti-E antibodies are clinically significant 
and
capable of causing hemolytic transfusion reactions.
 
In the future the patient should receive E-antigen negative 
products for
all red cell transfusions. Approximately 71% of ABO compatible 
blood
will be E-antigen negative.

Pleural fluid, right:
NEGATIVE FOR MALIGNANT CELLS. 

CXR oblique: 
Focal nodular opacity overlying the ___ lateral ribs seen to 
move separate from the ribs on oblique radiographs suggesting 
that it is pleural and may represent a pleural plaque. Repeat PA 
and lateral chest radiograph in 3 months is recommended for 
follow-up. Remainder of the examination including elevation of 
the right hemidiaphragm and adjacent atelectasis is unchanged. 
RECOMMENDATION(S):  Repeat PA and lateral chest radiograph in 3 
months is recommended for follow-up.

EGD: 
Erythema, friability in the gastric pouch, consistent with 
gastritis. The GJ anastomosis was carefully examined and no 
ulcers were noted. The anastomosis was widely patent.  Cold 
forceps biopsies were performed for histology at the gastric 
pouch. 
Duodenum:Other Duodenum not examined. Anatomy consistent with 
prior bypass was noted. The alimentary limb was traversed and 
was grossly normal. The blind limb was also examined without 
abnormalities.  Cold forceps biopsies were performed for 
histology at the jejunum. 
Impression: No varices.
Erythema, friability in the gastric pouch, consistent with 
gastritis. The GJ anastomosis was carefully examined and no 
ulcers were noted. The anastomosis was widely patent. (biopsy)
Duodenum not examined. Anatomy consistent with prior bypass was 
noted. The alimentary limb was traversed and was grossly normal. 
The blind limb was also examined without abnormalities. (biopsy)
Otherwise normal EGD to jejunum 

MICRO:  
___ PLEURAL FLUID GRAM STAIN-FINAL; FLUID 
CULTURE-FINAL; ANAEROBIC CULTURE-PRELIMINARY; FUNGAL 
CULTURE-PRELIMINARY INPATIENT
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING INPATIENT
___ URINE URINE CULTURE-FINAL INPATIENT
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING INPATIENT
___ IMMUNOLOGY HCV VIRAL LOAD-FINAL 
INPATIENT
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING EMERGENCY WARD

  

Test                          Result              Reference 
Range/Units
CERULOPLASMIN                 12  L               ___ mg/dL
 
 
THIS TEST WAS PERFORMED AT:
 
___ ___
___

DISCHARGE LABS: 
___ 06:50AM BLOOD WBC-3.7* RBC-3.01* Hgb-8.0* Hct-25.0* 
MCV-83 MCH-26.6 MCHC-32.0 RDW-22.6* RDWSD-68.8* Plt ___
___ 06:40AM BLOOD ___
___ 06:50AM BLOOD Glucose-80 UreaN-4* Creat-0.4 Na-133 
K-3.7 Cl-104 HCO3-26 AnGap-7*
___ 06:50AM BLOOD ALT-18 AST-74* LD(LDH)-308* TotBili-2.9*
___ 06:50AM BLOOD Calcium-7.3* Phos-3.7 Mg-1.6
___ 10:50AM BLOOD HBsAg-Negative HBsAb-Negative 
HBcAb-Negative
___ 10:50AM BLOOD AMA-NEGATIVE
___ 10:50AM BLOOD ___
___ 06:15AM BLOOD IgA-665*
___ 10:50AM BLOOD IgG-1815* IgM-___ with prior gastric bypass, bulimia, depression with prior 
SA, EtOH abuse who presents after suicide attempt and 2 day EtOH 
bender with abdominal pain and vomiting, found to have alcoholic 
hepatitis, now medically clear for transfer to inpatient psych 
facility for treatment of depression, eating disorder. 

# Alcoholic hepatitis with underlying diagnosis of EtOH 
cirrhosis: recent EtOH binge. MELD on ___, Discriminate 
function 62. Hepatology consulted. Cirrhosis attributed to EtOH 
but worked with viral studies negative, ___, AMA negative. 
Working up for ___ disease, ceruloplasmin low at 12, and 
urine copper pending. Based on criteria, scoring at lest 3 
points which is indeterminate - urine copper will assist in 
further stratification. Tbili, LFTs remain elevated and 
abdominal pain persisted.
Screening EGD confirmed no varices, but showed gastritis. 
Discussed with patient and fiancé importance of EtOH abstinence 
to avoid further gastritis and liver damage
- follow up with liver clinic
- follow up with ___ clinic (see below)
- Ensure Plus TID, eating disorder treatment for nutritional 
support
- repeat LFTs at next outpatient appointment
- 24 hour urine copper pending
- Lasix 40mg PO / spironolactone 100mg PO daily for diuresis
- short course of oxycodone for acute pain management, has been 
taking 3 times daily
- PMP checked, recommend weaning to start ___ days
- has not required IV zofran in few days, can receive PO zofran 
if needed
- consider weekly or twice weekly chem 10 to determine need for 
oral magnesium/potassium (depending on PO intake)

# R pleural effusion/hepatic hydrothorax: Pleural studies are 
consistent with this. 
- encourage ambulation
- diuresis as above 
- follow up in ___ weeks in ___ clinic, number given to 
patient in d/c paperwork

# Anemia: Acutely anemia without signs or symptoms of active 
bleeding. Responded appropriately to 1u PRBC. Found to have 
antibodies, likely from prior transfusions. Suspect anemia 
primarily due to acute illness, and likely underlying anemia of 
chronic disease due to cirrhosis vs slow oozing from gastritis. 
CBC improved throughout admission
- repeat CBC at next clinic appointment

# Leukopenia: Likely due to underlying cirrhosis, has been 
stable to improving. Infectious workup negative. 

# Thrombocytopenia: Stable to improving, likely due to 
underlying cirrhosis. 

# EtOH dependence and abuse: CIWA scale with valium discontinued 
after first days of admission as no longer required. Follow by 
SW and psychiatry. 

# Suicide attempt with depression/Eating disorder: Appreciate 
psych recs, remained on 1:1 sitter until ___ repeat psych 
eval. Remained ___ for entirety of hospitalization. 
Requires inpatient psych hospitalization. 
- continued home trazodone, sertraline, seroquel

# Peptic ulcer disease/s/p gastric bypass: Bypass also 
complicated by marginal ulcers, only gastritis seen on EGD. 
- continued Carafate, PPI

# Eating disorder/malnutrition: Please encourage high protein 
foods/protein shakes. Recommend ___ weekly chem 10 for to 
determine need for oral potassium/magnesium supplementation. 

# Focal nodular opacity overlying the ___ lateral ribs seen 
to move separate 
from the ribs on oblique radiographs suggesting that it is 
pleural and may 
represent a pleural plaque. Repeat PA and lateral chest 
radiograph in 3 months 
is recommended for follow-up. Separate letter sent to PCP. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pantoprazole 40 mg PO Q12H 
2. Sucralfate 1 gm PO TID 
3. Sertraline 100 mg PO DAILY 
4. QUEtiapine Fumarate 25 mg PO TID 
5. TraZODone 100 mg PO QHS 

 
Discharge Medications:
1. Pantoprazole 40 mg PO Q12H 
2. QUEtiapine Fumarate 25 mg PO TID 
3. Sertraline 100 mg PO DAILY 
4. Sucralfate 1 gm PO TID 
5. TraZODone 50 mg PO QPM:PRN insomnia 
6. TraZODone 50 mg PO QHS:PRN insomnia 
7. Furosemide 40 mg PO DAILY 
RX *furosemide 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
8. Multivitamins 1 TAB PO DAILY 
9. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN pain 
partial fill per patient request 
RX *oxycodone 5 mg 1 tablet(s) by mouth three times daily Disp 
#*21 Tablet Refills:*0
10. Spironolactone 100 mg PO DAILY 
RX *spironolactone 100 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
11. FoLIC Acid 1 mg PO DAILY 
12. Senna 8.6 mg PO BID:PRN constipation 
13. Docusate Sodium 100 mg PO BID:PRN constipation 

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Alcoholic hepatitis 
EtOH cirrhosis
Hepatic hydrothorax
Anemia
EtOH dependence and abuse
Suicide attempt, depression
Eating disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted with abdominal pain after an alcohol binge and 
a suicide attempt. You were diagnosed with alcoholic hepatitis, 
an inflammation of your liver. This causes abnormal liver 
function tests and pain, and can take a time to resolve. 

Your underlying liver disease caused fluid buildup around your 
lung, and you were started on medications to help keep that 
fluid from affecting your breathing. 

Your urine copper test is still pending in the lab, please make 
sure to follow up with the liver clinic. 

You are being transferred to an inpatient psych facility to help 
treat your depression and eating disorder. 

We wish you all the best. 
 
Followup Instructions:
___